US03960845
Benzhydryl 7-(1',2'-dichloro-2'-α-thienylethylidenimino)-3-carbamoyloxymethyl-3-cephem-4-carboxylate was prepared from benzhydryl 7β-)α-thienylchloroacetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylate(597 mg), phosphorus pentachloride(220 mg) and quinoline(0.15 ml) according to the same procedure as in Example 23 - (1) and dissolved in tetrahydrofuran(40 ml). To the solution was added a methanol solution of lithium methoxide prepared from lithium(12 mg) and methanol(4 ml) at -70°C. The reaction mixture was stirred at -70°C. for 30 minutes. After the addition of trifluoroacetic acid (5 ml) the solution was stirred at room temperature for 40 minutes. The solution was evaporated under reduced pressure to dryness and the residue was extracted with ethyl acetate, which was re-extracted with a pH 7.5 buffer (disodium hydrogen phosphate-potassium dihydrogen phosphate). The aqueous extracts were acidified to pH 2.0 with diluted hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and evaporated to give 60 mg of 7β-)α-thienylacetamido)-7α-methoxy-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid. IR νmaxNujol cm-1 : 3420, 3330, 3230, 1783, 1715, 1680, 1665. NMR(CD3CN) δ ppm: 3.53(3H, singlet), 3.38(1H, doublet, J=18 Hz), 3.60(1H, doublet, J=18 Hz), 3.90(2H, singlet), 4.88(2H, singlet), 5.07(1H, singlet), 6.95-7.40(3H, multiplet).

reactant | 3-carbamoyloxymethyl-3-cephem-4-carboxylate | 597 mg | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2)=O
reactant | phosphorus pentachloride | 220 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | quinoline | 0.15 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | lithium methoxide | C[O-].[Li+]
reactant | lithium | 12 mg | [Li] | Li
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 7α-methoxy-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | CO[C@@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C10H12N2O6S
